US05753664
3,5-Dimethyl-2-[2-[4-(4-trifluoromethylbenzoyl)-phenyl]vinyl]-4(3H)-quinazolinone
To a mixture of 2,3,5-trimethyl-4(3H)-quinazolinone (508 mg) and 4-(4-trifluoromethylbenzoyl)benzaldehyde (751 mg) was added acetic anhydride (1.0 ml) and the mixture was stirred at 140° C. for 2 hours. This reaction mixture was concentrated and the residue was washed with n-hexane-diethyl ether and dried to provide 898 mg of yellow powder.

reactant | 2,3,5-trimethyl-4(3H)-quinazolinone | 508 mg | CC1=NC2=CC=CC(=C2C(N1C)=O)C | C11H12N2O
reactant | 4-(4-trifluoromethylbenzoyl)benzaldehyde | 751 mg | FC(C1=CC=C(C(=O)C2=CC=C(C=O)C=C2)C=C1)(F)F | C15H9F3O2
reactant | acetic anhydride | 1.0 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3,5-Dimethyl-2-[2-[4-(4-trifluoromethylbenzoyl)-phenyl]vinyl]-4(3H)-quinazolinone | 898 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)C=CC1=CC=C(C=C1)C(C1=CC=C(C=C1)C(F)(F)F)=O | C26H19F3N2O2
